US06642389B2
d] [5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetic acid
8.69 g of the above prepared [5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetonitrile (32.6 mmol) was dissolved in 100 ml EtOH/water=1/1 and treated with 10 eq. of NaOH-pellets (13 g). Hydrolysis was allowed to proceed over night at 85° C. Pouring onto crashed ice/HCl, twofold extraction with AcOEt, washing with water, drying over magnesium sulfate, evaporation of the solvents, followed by recrystallization from AcOEt/hexane, yielded 7.35 g of the title acid as off-white crystals.

reactant | [5-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetonitrile | 32.6 mmol | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CC#N | C13H9F3N2O
reactant | NaOH | 10 eq. | [OH-].[Na+]
reactant | EtOH water | 100 ml | CCO.O
product | [5-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-4-yl]-acetic acid | 7.35 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)CC(=O)O | C13H10F3NO3
